US07662830B2
2. 4-(5-bromo-3-methyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Heat a solution of 2,5-dibromo-3-methyl-pyridine (Chontech Inc.) (12.6 g, 50.3 mmol), piperazine-1-carboxylic acid tert-butyl ester (11.7 g, 62.9 mmol) and DIEA (13.3 g, 102.0 mmol) in DMA at 130° C. for 36 h. Partition the dark brown reaction mixture between water and EtOAc. Wash the EtOAc layer with water (1×) and brine (1×), dry (Na2SO4) and concentrate under reduced pressure to give the crude product. Purify by flash chromatography, eluting with 9:1 hexanes:EtOAc, increasing to 3:1 hexanes:EtOAc to provide the title compound as a solid.

reactant | 2,5-dibromo-3-methyl-pyridine | 50.3 mmol, 12.6 g | BrC1=NC=C(C=C1C)Br | C6H5Br2N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 62.9 mmol, 11.7 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DIEA | 102.0 mmol, 13.3 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-(5-bromo-3-methyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1C)Br | C15H22BrN3O2
